US07754741B2
Preparation of 2-Chloro-N-[2-(3-chloro-5-trifluoromethyl-pyrdin-2-yl)-ethyl]-6-methyl-nicotinamide
A solution of 161 mg (0.7 mmol) 2-chloro-6-methylnictotinyl chloride, 160 mg (0.7 mmol) 2-(3-chloro-5-trifluormethyl-pyridin-2-yl)-ethylamine hydrochloride and 236 mg (1.7 mmol) sodium carbonate in 8 ml acetonitrile is stirred for 3 days at room temperature.

reactant | 2-(3-chloro-5-trifluormethyl-pyridin-2-yl)-ethylamine hydrochloride | 0.7 mmol, 160 mg | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CCN
reactant | sodium carbonate | 1.7 mmol, 236 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 2-Chloro-N-[2-(3-chloro-5-trifluoromethyl-pyrdin-2-yl)-ethyl]-6-methyl-nicotinamide | ClC1=C(C(=O)NCCC2=NC=C(C=C2Cl)C(F)(F)F)C=CC(=N1)C | C15H12Cl2F3N3O
